US08314091B2
A: tert-Butyl 4-(4-(3-phenylureido)benzoyl)piperazine-1-carboxylate
To a solution of 4-(3-phenylureido)benzoic acid (13.5 g, 52.68 mmol) in acetonitrile (250 mL) at room temperature was added tert-butyl piperazine-1-carboxylate (11.8 g, 63.22 mmol), 1H-benzo[d][1,2,3]triazol-1-ol (21.1 g, 156.5 mmol, HOBT) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (30 g, 156.5 mmol, EDCl). The mixture was stirred at reflux temperature for 16 hours and was then concentrated under vacuum. The residue was submitted to silica chromatography (0-5% ethyl acetate in n-hexanes as eluant) to give the title compound (15.0 g). MS (ESI) m/z 425.1 [M+H]+

reactant | 4-(3-phenylureido)benzoic acid | 52.68 mmol, 13.5 g | C1(=CC=CC=C1)NC(NC1=CC=C(C(=O)O)C=C1)=O | C14H12N2O3
reactant | tert-butyl piperazine-1-carboxylate | 63.22 mmol, 11.8 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 156.5 mmol, 21.1 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 156.5 mmol, 30 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | tert-Butyl 4-(4-(3-phenylureido)benzoyl)piperazine-1-carboxylate | 15.0 g | C1(=CC=CC=C1)NC(NC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C23H28N4O4
